US04316020
41 parts of 6-fluoroisatin are suspended in 500 parts of glacial acetic acid and 15 parts of concentrated sulfuric acid and 100 parts of 30 percent strength hydrogen peroxide solution are added at 30° C. A slightly exothermic reaction is observed and at 40°-45° C. a clear solution is temporarily produced. The temperature is not allowed to rise above 50° C., and after one hour the mixture is cooled to room temperature. The precipitate is filtered off and washed. 38 parts of 7-fluoroisatoic anhydride are obtained; melting point 229°-231° C., with decomposition.

reactant | 6-fluoroisatin | FC1=CC=C2C(C(NC2=C1)=O)=O | C8H4FNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-fluoroisatoic anhydride | C1=CC2=C(C=C1F)NC(=O)OC2=O | C8H4FNO3
